US07465726B2
4-[5-Bromo-4-(1H-indazol-5-ylamino)-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
To a mixture of (5-bromo-2-iodo-1H-pyrrolo[2,3-b]pyridin-4-yl)-(1H-indazol-5-yl)-amine (25 mg, 0.069 mmol), potassium carbonate (19 mg, 0.14 mmol), tetrakistriphenylphosphine palladium (10 mg, 0.014 mmol) and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (21.6 mg, 0.069 mmol) was added degassed DMF (3 mL) and water (0.75 mL) and the mixture was heated to reflux for 5 h. Water was added to the reaction and filtered. The precipitate was washed with water and the filtrate was extracted with DCM. The precipitate was dissolved in DCM/MeOH mixture (9:1) and combined with the DCM extract and evaporated. The crude product was purified by preparative TLC using 8% methanol in DCM as eluent to afford the title compound as beige solid. 1H NMR (400 MHz, CD3OD): δ=10.32 (s, 1H), 8.11 (s, 1H), 8.02 (s, 1H), 7.58 (d, J=0.8 Hz, 1H), 7.47 (d, J=8.9 Hz, 1H), 7.26 (dd, J=8.8, 1.9 Hz, 1H), 6.69 (s, 1H), 5.95 (bs, 1H), 5.16 (bs, 1H), 3.99-4.03 (m, 2H), 3.42 (t, J=5.4 Hz, 2H), 2.00-2.07 (m, 2H), 1.39 (s, 9H); MS (ES+): m/z 510.89 (100) [MH+]; HPLC: tR=2.63 min (ZQ2000, polar—5 min).

reactant | (5-bromo-2-iodo-1H-pyrrolo[2,3-b]pyridin-4-yl)-(1H-indazol-5-yl)-amine | 0.069 mmol, 25 mg | BrC=1C(=C2C(=NC1)NC(=C2)I)NC=2C=C1C=NNC1=CC2 | C14H9BrIN5
reactant | potassium carbonate | 0.14 mmol, 19 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.069 mmol, 21.6 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
product | 4-[5-Bromo-4-(1H-indazol-5-ylamino)-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=2C(=NC=C(C2NC=2C=C3C=NNC3=CC2)Br)N1 | C24H25BrN6O2
